US05753657
To a suspension of 7 g of 10-formamido-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one in 225 ml of anhydrous tetrahydrofuran maintained at 0° C. are added, dropwise over 10 minutes, 62.5 ml of a 2M solution of borane/methyl sulphide complex in tetrahydrofuran. The mixture is stirred for 10 minutes at the same temperature and then for 18 hours at a temperature in the region of 20° C. After addition of 100 ml of methanol and stirring for 1 hour, the insoluble material is separated out by filtration and washed with 25 ml of methanol. The filtrate and the washings are combined and concentrated to dryness under reduced pressure (15 mmHg; 2 kPa) at 35° C. The product obtained (3.9 g) is chromatographed on 390 g of neutral silica gel (0.020-0.045 mm) contained in a column of diameter 5.3 cm, eluting with a chloroform/methanol/28% aqueous ammonia mixture (82/15/3 by volume) and collecting 35 ml fractions. Fractions 25 to 31 are combined and concentrated to dryness under reduced pressure (1 mmHg; 0.13 kPa) at 90° C. 0.59 g of 10-methylamino-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one is thus obtained, melting at 184° C. [N.M.R. spectrum: [200 MHz; (CD3) 2SO d6 ; δ in ppm): 1.85 (s, 3H: --CH3); 5.13 (8, 1H: --CH-- 10); 7.36 and 7.43 (2t broad, J=8 Hz, 1H each: --H7 and --H8); 7.61 and 8.17 (2s broad, 1H each: --H of the imidazole); 7.62 and 7.85 (2d broad, J=8 Hz, 1H each: --H6 and --H9); 12.35 (broad s, 1H: --CONH-- of the ring)].

reactant | 10-formamido-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 7 g | C(=O)NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C14H10N4O2
reactant | methanol | 100 ml | CO | CH4O
solvent | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
product | 10-methylamino-5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one | 0.59 g | CNC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C14H12N4O
